US07572808B2
Preparation of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide
To a suspension of 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (64 mg, 0.2 mmol), 3-(hydroxymethyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide (41 mg, 0.2 mmol) and Ph3P (105 mg, 0.4 mmol) in anhydrous THF (3 mL) at room temperature was added dropwise a 40% solution of DEAD in toluene (0.091 mL, 0.4 mmol). The resulting clear, yellowish solution was then stirred at room temperature for 16 h. The reaction mixture was diluted with EtOAc, washed with saturated aqueous NaHCO3, then saturated aqueous NaCl, dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (12 g) eluted with a gradient of ethyl acetate (40-100%) in hexanes to afford 70 mg (69%) of the title compound as a light yellow foam. A portion of the product (10 mg) was further purified using preparative reverse phase HPLC (Phenomenex Luna 5 μm C-18 21.2×100 mm column eluted with a linear gradient of 40% to 80% B over 8 min (A=0.1% trifluoroacetic acid, 90% water, 10% methanol and B=0.1% trifluoroacetic acid, 90% methanol, 10% water) with flow rate at 20 mL/min and UV detection at 220 nm). The desired fractions were concentrated under reduced pressure. The residue was dissolved in EtOAc, washed with saturated aqueous NaHCO3 once, water twice, then saturated aqueous NaCl, dried over Na2SO4 and evaporated. The residue was dissolved in acetonitrile, frozen and lyophilized to afford 7.2 mg of the title compound as a light yellow powder. HPLC/MS: retention time=2.33 min, [M+H]+=512.0.

reactant | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.2 mmol, 64 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(NN2)=O)C2=CC=NC=C2 | C17H11ClN4O
reactant | 3-(hydroxymethyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide | 0.2 mmol, 41 mg | OCC=1C(=[N+](C(=CC1)C(F)(F)F)[O-])C | C8H8F3NO2
reactant | Ph3P | 0.4 mmol, 105 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | toluene | 0.4 mmol, 0.091 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide | 70 mg, 69% | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=[N+](C(=CC2)C(F)(F)F)[O-])C)=O)C2=CC=NC=C2 | C25H17ClF3N5O2
